US07582760B2
To a solution of 1-benzyl-4-hydroxy-1,3-dihydro-benzoimidazol-2-one (0.100 g, 0.417 mmol) and 3-hydroxymethyl-azetidine-1-carboxylic acid tert-butyl ester (0.078 g, 0.417 mmol) in 0.5 mL anhydrous THF under nitrogen was added triphenylphosphine (0.109 g, 0.417 mmol) and diisopropyl azodicarboxylate (0.082 mL, 0.417 mmol) dropwise. The reaction mixture was stirred for 24 h, concentrated in vacuo, and purified by preparative TLC (3% methanol in dichloromethane) to give 57 mg (0.14 mmol, 33.6%) of 3-(1-benzyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxymethyl)-azetidine-1-carboxylic acid tert-butyl ester as a clear oil. MS: 410 (M+H)+.

reactant | 1-benzyl-4-hydroxy-1,3-dihydro-benzoimidazol-2-one | 0.417 mmol, 0.100 g | C(C1=CC=CC=C1)N1C(NC2=C1C=CC=C2O)=O | C14H12N2O2
reactant | 3-hydroxymethyl-azetidine-1-carboxylic acid tert-butyl ester | 0.417 mmol, 0.078 g | C(C)(C)(C)OC(=O)N1CC(C1)CO | C9H17NO3
reactant | triphenylphosphine | 0.417 mmol, 0.109 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.417 mmol, 0.082 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-(1-benzyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxymethyl)-azetidine-1-carboxylic acid tert-butyl ester | 0.14 mmol, 57 mg, 33.6% | C(C)(C)(C)OC(=O)N1CC(C1)C(CC1=CC=CC=C1)OC1=CC=CC=2NC(NC21)=O | C23H27N3O4
